US04297366
8.7 g (0.0365 mol) of 2,2-dimethyl-3-(3,3,3-trifluoro-2-methoxy-prop-1-enyl)-cyclopropanecarboxylic acid were dissolved in 100 ml of carbon tetrachloride, and 21 g of thionyl chloride were slowly added dropwise at 60° C., while stirring. The mixture was then heated to the reflux temperature for 4 hours. After this reaction time, excess thionyl chloride and carbon tetrachloride were distilled off under a waterpump vacuum. The residue was distilled in vacuo. 6 g (64.2% of theory) of 2,2-dimethyl-3-(3,3,3-trifluoro-2-methoxy-prop-1-enyl)-cyclopropanecarboxylic acid chloride were obtained as a slightly yellow liquid with a boiling point of 80° C./2 mbar.

reactant | 2,2-dimethyl-3-(3,3,3-trifluoro-2-methoxy-prop-1-enyl)-cyclopropanecarboxylic acid | 0.0365 mol, 8.7 g | CC1(C(C1C=C(C(F)(F)F)OC)C(=O)O)C | C10H13F3O3
reactant | thionyl chloride | 21 g | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,2-dimethyl-3-(3,3,3-trifluoro-2-methoxy-prop-1-enyl)-cyclopropanecarboxylic acid chloride | 6 g, 64.2% | CC1(C(C1C=C(C(F)(F)F)OC)C(=O)Cl)C | C10H12ClF3O2
